US07935716B2
To 0.43 g of sodium hydride (60%) was added 35 ml of tetrahydrofuran, 2.5 ml of a solution of 1.76 g diethyl malonate in tetrahydrofuran was further added under ice cooling, and the mixture was stirred at room temperature for 1 hour. To the mixture was added 1.74 g of 5-chloro-3,4-dimethyl-2H-1,3-oxazine-2,6(3H)-dione, and this was stirred for 3.5 hours under heat refluxing condition. The reaction mixture was concentrated under reduced pressure. To the residue, 20 ml of water and 15 ml of 1 mol/L hydrochloric acid were sequentially added, followed by extraction with 85 ml of chloroform twice. The organic layer was dried with magnesium sulfate, filtered, and concentrated. The residue was washed with n-hexane to obtain 1.52 g of ethyl 5-chloro-1.6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxylate represented by the formula:

reactant | sodium hydride | 0.43 g | [H-].[Na+]
reactant | diethyl malonate | 1.76 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 5-chloro-3,4-dimethyl-2H-1,3-oxazine-2,6(3H)-dione | 1.74 g | ClC1=C(N(C(OC1=O)=O)C)C | C6H6ClNO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | ethyl 5-chloro-1.6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxylate | 1.52 g | ClC=1C(=C(C(N(C1C)C)=O)C(=O)OCC)O | C10H12ClNO4
